US07238706B2
Step 1: (cis)-1-{[2-(4-Bromophenyl)cyclopropyl]carbonyl}-1H-imidazole
To a solution of (cis)-2-(4-bromophenyl)cyclopropanecarboxylic acid (1.0 eq.) in toluene (0.2M) was added CDI (1.5 eq.). The mixture was stirred for 18 h at 50° C. The solvent evaporated, the resulting residue stirred vigorously in hexane/CH2Cl2, filtered, the filtrate evaporated to afford the title compound as a white solid.

reactant | (cis)-2-(4-bromophenyl)cyclopropanecarboxylic acid | 1.0 eq. | BrC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)O | C10H9BrO2
reactant | CDI | 1.5 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | toluene | 0.2M | C1(=CC=CC=C1)C | C7H8
product | (cis)-1-{[2-(4-Bromophenyl)cyclopropyl]carbonyl}-1H-imidazole | BrC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)N1C=NC=C1 | C13H11BrN2O
